US07456210B2
(R)-1-[4-(3-Fluoro-benzyloxy)-phenyl]-5-oxo-pyrrolidine-3-carboxylic acid amide
(R)-1-[4-(3-Fluoro-benzyloxy)-phenyl]-5-oxo-pyrrolidine-3-carboxylic acid (1.5 g, 0.005 mol) was dissolved in dry N,N-dimethylformamide under argon and cooled to 0° C. 1,1′-Carbonyl-diimidazole (1.4 g, 0.009 mol) was added to the mixture and the reaction stirred for one hour while the temperature rose from 0° C. to room temperature. Ammonium acetate (5.6 g, 0.073 mol) was added and the reaction was stirred for one hour at room temperature. Water was added dropwise to the mixture and a precipitate appeared. The solid was filtrated, washed with water and dried under vacuum to yield 1.36 g (0.0041 mol, 91% of theory) of the title compound as a white solid. MS (m/e)=329.3(M+H)+.

reactant | (R)-1-[4-(3-Fluoro-benzyloxy)-phenyl]-5-oxo-pyrrolidine-3-carboxylic acid | 0.005 mol, 1.5 g | FC=1C=C(COC2=CC=C(C=C2)N2C[C@@H](CC2=O)C(=O)O)C=CC1 | C18H16FNO4
reactant | 1,1′-Carbonyl-diimidazole | 0.009 mol, 1.4 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | Ammonium acetate | 0.073 mol, 5.6 g | C(C)(=O)[O-].[NH4+]
reactant | Water | O | H2O
solvent | N,N-dimethylformamide | CN(C=O)C | C3H7NO
product | (R)-1-[4-(3-Fluoro-benzyloxy)-phenyl]-5-oxo-pyrrolidine-3-carboxylic acid amide | FC=1C=C(COC2=CC=C(C=C2)N2C[C@@H](CC2=O)C(=O)N)C=CC1 | C18H17FN2O3
